US07598383B2
Step B: Preparation of 4-(4-bromo-2-fluorophenylamino)-1,3-dimethyl-5-(1H-tetrazol-5-yl)-1H-pyridin-2-one:
DBU (0.030 mL, 0.21 mmol) was added to a solution of 3-{5-[4-(4-bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl]-tetrazol-1-yl}-propionitrile (30 mg, 0.069 mmol) in methylene chloride (1.5 mL). After 2 hours, the reaction mixture was diluted with ethyl acetate and washed with 1 N HCl. The aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated under reduced pressure. Trituration with diethyl ether gave clean desired product (20 mg, 77%); MS APCI (−) m/z 377, 379 (M−, Br pattern) detected; 1H NMR (400 MHz, CD3OD) δ 8.20 (s, 1H), 7.29 (dd, 1H), 7.13 (dd, 1H), 6.63 (t, 1H), 3.65 (s, 3H), 1.91 (s, 3H).

reactant | DBU | 0.21 mmol, 0.030 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 3-{5-[4-(4-bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl]-tetrazol-1-yl}-propionitrile | 0.069 mmol, 30 mg | BrC1=CC(=C(C=C1)NC=1C(=CN(C(C1C)=O)C)C1=NN=NN1CCC#N)F | C17H15BrFN7O
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-bromo-2-fluorophenylamino)-1,3-dimethyl-5-(1H-tetrazol-5-yl)-1H-pyridin-2-one | 20 mg, 77% | BrC1=CC(=C(C=C1)NC1=C(C(N(C=C1C1=NN=NN1)C)=O)C)F | C14H12BrFN6O
